US04511655
Into the same flask as in Example 1, 3-hydroxy-2-n-pentyl-3-methyl-4-cyclopentenone (18.2 g), triethylamine (20.3 g) and chloroform (150 g) were charged, and acetyl chloride (15.8 g) was dropwise added thereto at a temperature of 10° to 15° C. in 2 hours. Then, stirring was continued at room temperature for 20 hours. The reaction mixture was treated as in Example 1. The residue was purified by silica gel chromatography using a mixture of toluene and ethyl acetate (10:1) as an eluent to give dl-3-acetoxy-2-n-pentyl-3-methyl-4-cyclopentenone (21.5 g). Yield, 96%.

reactant | 3-hydroxy-2-n-pentyl-3-methyl-4-cyclopentenone | 18.2 g | OC1(C(C(C=C1)=O)CCCCC)C | C11H18O2
reactant | triethylamine | 20.3 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 15.8 g | C(C)(=O)Cl | C2H3ClO
solvent | chloroform | 150 g | C(Cl)(Cl)Cl | CHCl3
product | 3-acetoxy-2-n-pentyl-3-methyl-4-cyclopentenone | 21.5 g | C(C)(=O)OC1(C(C(C=C1)=O)CCCCC)C | C13H20O3
